US06187777B1
2-Methyl-6,7-diphenyl-4-piperidylpyrrolo[3,2-d]pyrimidine Hydrochloride Hydrate.
Using the method described in Example 30 by employing (1,2-diphenylvinyl)pyrrolidine (freshly prepared before use) (1.83 g, 7.35 mmol), 2-methyl-4,6-dichloro-5-nitropyrimidine (Example 76(b)) (1.50 g, 7.35 mmol), N,N-diisopropylethyl amine (Aldrich Chemical Company) (1.3 mL, 7.35 mmol), piperidine (1.2 mL, 11.8 mmol), NEt3 (Aldrich Chemical Company) (2.0 mL) and SnCl2 (Aldrich Chemical Company) (22 mL of a 2M solution in DMF). The residue was purified by flash chromatography on silica gel with 95:5 CHCl3:MeOH as elutant to give 110 mg (4%) of the free base as a pale yellow colored solid. H NMR (DMSO-d6; 400 MHz): δ 1.65 (br s, 6), 2.42 (s, 3), 3.72 (br s, 4), 7.19 (m, 1), 7.28 (m, 2), 7.39-7.44 (m, 7), 11.20 (s, 1). MS m/z: 369 (M+1). To a solution of 2-methyl-6,7-diphenyl-4-piperidylpyrrolo[3,2-d]pyrimidine (148 g, 0.40 mmol) in 1:1 EtOAc: MeOH (50 mL) was added 1M etheral HCl (Aldrich Chemical Company) (400 mL, 0.40 mmol). The solvent was removed under reduced pressure and then dried under vacuum to give 83 mg (51%) of the title compound as a beige colored solid. Mp: 169-171° C. 1H NMR (DMSO-d6; 400 MHz): δ 1.72 (br s, 6), 2.56 (s, 3), 4.06 (br s, 4), 7.29 (dd, 2, J=1.7, 6.0), 7.37-7.45 (m, 8), 12.26 (s, 1), 13.40 (s, 1). MS m/z: 369 (M+1). Anal. Calcd. for C24H24N4.HCl.H2O: C, 68.25; H, 6.40; N, 13.27; Cl, 8.29. Found C, 68.33; H, 6.41; N, 13.15; Cl, 8.50.

reactant | 2-methyl-6,7-diphenyl-4-piperidylpyrrolo[3,2-d]pyrimidine | 0.40 mmol, 148 g | CC1NC(CC(C1)C1=NC=C2C(N1)=C(C=N2)C2=CC=CC=C2)C2=CC=CC=C2 | C24H24N4
reactant | EtOAc | CCOC(=O)C | C4H8O2
reactant | HCl | 0.40 mmol, 1M, 400 mL | Cl | ClH
solvent | MeOH | 50 mL | CO | CH4O
product | 2-Methyl-6,7-diphenyl-4-piperidylpyrrolo[3,2-d]pyrimidine Hydrochloride Hydrate | 83 mg, 51% | O.Cl.CC1NC(CC(C1)C1=NC=C2C(N1)=C(C=N2)C2=CC=CC=C2)C2=CC=CC=C2 | InChI=1S/C24H24N4.ClH.H2O/c1-16-12-19(13-21(27-16)18-10-6-3-7-11-18)24-26-15-22-23(28-24)20(14-25-22)17-8-4-2-5-9-17;;/h2-11,14-16,19,21,27H,12-13H2,1H3,(H,26,28);1H;1H2
